US06432949B1
2-[N-(2-dimethylaminoethyl)-N-methylamino]-N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-4-carboxamide
Using an analogous procedure to that described in Example 21, 2-chloro-N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-4-carboxamide was reacted with N-(2-dimethylaminoethyl)-N-methylamine to give the title compound in 44% yield; NMR Spectrum: (DMSOd6) 2.17 (s, 6H), 2.19 (s, 31), 2.4 (t, 2H), 3.05 (s, 3H), 3.5-3.54 (m, 4H) 3.65-3.72 (m, 6H), 6.75 (s, 1H), 6.94 (d, 1H), 7.02 (s, 1H), 7.1 (d, 1H), 7.24 (d, 2H), 7.58 (d, 1H), 7.78 (s, 1H), 8.19 (d, 1H), 8.26 (d, 1H), 9.96 (s, 1H), 10.28 (s, 1H); Mass Spectrum: M+H+ 518.

reactant | 2-chloro-N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-4-carboxamide | ClC1=NC=CC(=C1)C(=O)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C | C23H22ClN5O3
reactant | N-(2-dimethylaminoethyl)-N-methylamine | CN(CCNC)C | C5H14N2
product | 2-[N-(2-dimethylaminoethyl)-N-methylamino]-N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-4-carboxamide | 44% yield | CN(CCN(C)C1=NC=CC(=C1)C(=O)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C)C | C28H35N7O3
